US07935721B2
Synthesis of (2-oxo-5′,6′,7′,8′-tetrahydrospiro[indole-3,3′-naphtho[2,3-b]furan]-1(2H)-yl)acetic acid
Following the procedure as described in Example 2, and making non-critical variations using ethyl (2-oxo-5′,6′,7′,8′-tetrahydrospiro[indole-3,3′-naphtho[2,3-b]furan]-1(2H)-yl)acetate to replace ethyl (2′-oxospiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-1′(2′H)-yl)acetate, the title compound was obtained (99%): MS (ES−) m/z 348 (M−1).

reactant | ethyl (2-oxo-5′,6′,7′,8′-tetrahydrospiro[indole-3,3′-naphtho[2,3-b]furan]-1(2H)-yl)acetate | O=C1N(C2=CC=CC=C2C12C1=C(OC2)C=C2CCCCC2=C1)CC(=O)OCC | C23H23NO4
reactant | ethyl (2′-oxospiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-1′(2′H)-yl)acetate | O=C1N(C2=CC=CC=C2C12COC=1C2=CC2=C(OCO2)C1)CC(=O)OCC | C20H17NO6
product | (2-oxo-5′,6′,7′,8′-tetrahydrospiro[indole-3,3′-naphtho[2,3-b]furan]-1(2H)-yl)acetic acid | O=C1N(C2=CC=CC=C2C12C1=C(OC2)C=C2CCCCC2=C1)CC(=O)O | C21H19NO4
